US07371743B2
(e) 3-chloro-N-[(1S)-1-(5-chloro-1H-benzimidazol-2-yl)-ethyl]-4-(tetrahydro-pyrimidin-2-on-1-yl)-benzamide
Prepared analogously to Example 1f from 3-chloro-4-(tetrahydro-pyrimidin-2-on-1-yl)-benzoic acid, (1S)-1-(5-chloro-1H-benzimidazol-2-yl)-ethylamine, TBTU and NMM in DMF, then pouring into ice water, adding conc. ammonia solution, filtering, washing with water and purifying by chromatography on silica gel (eluting gradient ethyl acetate/(methanol/conc. ammonia solution 19:1)=98:2->90:10) with subsequent filtration through activated charcoal, trituration with ether and drying in the drying pistol at 70° C.

reactant | 3-chloro-4-(tetrahydro-pyrimidin-2-on-1-yl)-benzoic acid | ClC=1C=C(C(=O)O)C=CC1N1C(NCCC1)=O | C11H11ClN2O3
reactant | (1S)-1-(5-chloro-1H-benzimidazol-2-yl)-ethylamine | ClC1=CC2=C(NC(=N2)[C@H](C)N)C=C1 | C9H10ClN3
reactant | TBTU | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.[B-](F)(F)(F)F
reactant | NMM | CN1CCOCC1 | C5H11NO
reactant | ammonia | N | H3N
solvent | DMF | CN(C)C=O | C3H7NO
product | 3-chloro-N-[(1S)-1-(5-chloro-1H-benzimidazol-2-yl)-ethyl]-4-(tetrahydro-pyrimidin-2-on-1-yl)-benzamide | ClC=1C=C(C(=O)N[C@@H](C)C2=NC3=C(N2)C=CC(=C3)Cl)C=CC1N1C(NCCC1)=O | C20H19Cl2N5O2
